US05883093
Step 4: (R)-[3-[3-fluoro-4-(3-methoxy-1-azetidinyl)phenyl]-2-oxo-5-oxazolidinyl]methanol
A solution of N-(carbobenzyloxy)-3-fluoro-4-(3-methoxy-1-azetidinyl)aniline (0.865 g, 2.62 mmol) in dry tetrahydrofuran (10 mL) was cooled to -78° C. under a nitrogen atmosphere and treated with n-butyllithium (1.65 mL of a 1.6M solution in hexanes, 2.65 mmol). After stirring at -78°0 C. for 15 min, the reaction mixture was treated with (R)-glycidyl butyrate (0.374 mL, 2.65 mmol). The cooling bath was then removed and the reaction mixture allowed to warm to ambient temperature. After 1 h the reaction was judged complete by TLC analysis. The reaction mixture was quenched by the addition of saturated aqueous ammonium chloride (0.5 mL) and concentrated under reduced pressure to a yellow solid. Chromatography over silica gel (10 g), eluting with a gradient of 1-2% methanol/chloroform afforded, after concentration of appropriate fractions, 0.530 g (68%) of the title compound as an off-white solid with mp 131°-132° C. and MS(EI) 296 (M+).

reactant | N-(carbobenzyloxy)-3-fluoro-4-(3-methoxy-1-azetidinyl)aniline | 2.62 mmol, 0.865 g | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C=C1)N1CC(C1)OC)F | C18H19FN2O3
reactant | n-butyllithium | C(CCC)[Li]
reactant | (R)-glycidyl butyrate | 2.65 mmol, 0.374 mL | C(CCC)(=O)OC[C@H]1CO1 | C7H12O3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (R)-[3-[3-fluoro-4-(3-methoxy-1-azetidinyl)phenyl]-2-oxo-5-oxazolidinyl]methanol | 0.530 g, 68% | FC=1C=C(C=CC1N1CC(C1)OC)N1C(O[C@H](C1)CO)=O | C14H17FN2O4
